US08084645B2
Preparation of (E)-N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-[(2-hydroxy-propoxyimino)-methyl]-benzamide
N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-[(2-oxo-ethoxyimino)-methyl]-benzamide (60 mg, 0.092 mmol) prepared in Process A was dissolved in anhydrous tetrahydrofuran (2.0 mL) under an argon atmosphere. This reaction solution was cooled to −78° C., and then 0.93 M methyl magnesium bromide (0.25 mL) was added thereto. The reaction solution was allowed to gradually warm to room temperature, and stirred for eight hours. The reaction was quenched with saturated aqueous solution of ammonium chloride, and the solution was extracted with ethyl acetate.

reactant | N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-[(2-oxo-ethoxyimino)-methyl]-benzamide | 0.092 mmol, 60 mg | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)C=NOCC=O)F)F)NC1=C(C=C(C=C1)I)F)=O | C24H29F3IN3O5Si
reactant | methyl magnesium bromide | 0.93 M, 0.25 mL | C[Mg]Br
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | (E)-N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-[(2-hydroxy-propoxyimino)-methyl]-benzamide | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)/C=N/OCC(C)O)F)F)NC1=C(C=C(C=C1)I)F)=O | C25H33F3IN3O5Si
